US08471027B2
A solution of 4-chloro-2-phenylamino-benzoic acid (10.1 g, 41.0 mmol) in N,N-dimethylformamide (200 mL) at 25° C. was treated with O-benzotriazole-N,N,N′,N′-tetramethyl-uronium-hexafluoro-phosphate (31.2 g, 82.0 mmol), N,O-dimethyl hydroxylamine hydrochloride (7.94 g, 82.0 mmol), and N,N-diisopropylethylamine (45.0 g, 350 mmol). The resulting mixture was stirred at 25° C. for 24 h. At this time, the reaction mixture was diluted with ethyl acetate (600 mL) and washed with water (4×200 mL) and a saturated aqueous sodium chloride solution (1×200 mL). The organics were dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. Flash chromatography (silica gel, 100-200 mesh, ethyl acetate/hexanes 10-25%) afforded 4-chloro-N-methoxy-N-methyl-2-phenylamino-benzamide (6.62 g, 56.4%) as a yellow solid. 1H NMR (DMSO-d6) δ ppm 7.93 (s, 1H), 7.20-7.39 (m, 3H), 7.02-7.17 (m, 3H), 6.88-6.99 (m, 2H), 3.50 (s, 3H), 3.20 (s, 3H); MS m/e calcd for C15H15ClN2O2 [(M+H)+] 291.0. Found 291.0; [(M−C2H6NO)+] 230.0. Found 230.0.

reactant | 4-chloro-2-phenylamino-benzoic acid | 41.0 mmol, 10.1 g | ClC1=CC(=C(C(=O)O)C=C1)NC1=CC=CC=C1 | C13H10ClNO2
reactant | N,O-dimethyl hydroxylamine hydrochloride | 82.0 mmol, 7.94 g | Cl.CNOC
reactant | N,N-diisopropylethylamine | 350 mmol, 45.0 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 600 mL | C(C)(=O)OCC | C4H8O2
product | 4-chloro-N-methoxy-N-methyl-2-phenylamino-benzamide | 6.62 g, 56.4% | ClC1=CC(=C(C(=O)N(C)OC)C=C1)NC1=CC=CC=C1 | C15H15ClN2O2
